US06462032B1
5-(3-Chloro-phenyl)-3-methoxy-3-prop-1-ynyl-1,3-dihydro-indol-2-one
5-bromo-3-methoxy-3-prop-1-ynyl-1,3-dihydroindol-2-one (0.56 g, 2.0 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.12 g, 0.10 mmol) were stirred at room temperature in dimethoxyethane (22 cm3). After 15 min. 3-chlorophenylboronic acid (0.63 g, 4.0 mmol) and sodium carbonate (1.06 g, 10 mrrol) in water (11 cm3) were added and the mixture heated under reflux. After 16 h, the mixture was cooled, poured into water and extracted with EtOAc (×3). The combined organic layers were washed with sodium hydroxide (1N, ×2), brine, dried (MgSO4) and evaporated. The residue was subjected to column chromatography (SiO2, EtOAc: hexane, gradient elution) and the product triturated with hexane to afford the title compound (0.095 g, 0.30 mmol, 15%) as a solid: mp. >190° C. (decomp.); (CDCl3) δ 1.88 (s, 3H), 3.25 (s, 3H), 3.30 (s, 1H), 6.91 (d, 1H, J=8.1 Hz), 7.29-7.39 (m, 2H), 7.44-7.47 (m, 1H), 7.54-7.57 (m, 2H), 7.74 (d, 1H, J=1.7 Hz); MS (EI) m/z 311 (M+).

reactant | 5-bromo-3-methoxy-3-prop-1-ynyl-1,3-dihydroindol-2-one | 2.0 mmol, 0.56 g | BrC=1C=C2C(C(NC2=CC1)=O)(C#CC)OC | C12H10BrNO2
reactant | 3-chlorophenylboronic acid | 4.0 mmol, 0.63 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | sodium carbonate | 1.06 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethoxyethane | 22 cm3 | C(OC)COC | C4H10O2
solvent | water | 11 cm3 | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.10 mmol, 0.12 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(3-Chloro-phenyl)-3-methoxy-3-prop-1-ynyl-1,3-dihydro-indol-2-one | 0.30 mmol, 0.095 g, 15% | ClC=1C=C(C=CC1)C=1C=C2C(C(NC2=CC1)=O)(C#CC)OC | C18H14ClNO2
